US05409943
(b) N-(3-(2,6-Dichlorobenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride
A mixture of 2-amino-3-(2,6-dichlorobenzyloxy)pyridine (5.38 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) to obtain the product as a hygroscopic foam (1.52 g), m.p. 69°-74° C.

reactant | 2-amino-3-(2,6-dichlorobenzyloxy)pyridine | 20 mmol, 5.38 g | NC1=NC=CC=C1OCC1=C(C=CC=C1Cl)Cl | C12H10Cl2N2O
reactant | ethyl phenylacetimidate hydrochloride | 22 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2,6-Dichlorobenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride | 1.52 g | Cl.ClC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C(=CC=C1)Cl | InChI=1S/C20H17Cl2N3O.ClH/c21-16-8-4-9-17(22)15(16)13-26-18-10-5-11-24-20(18)25-19(23)12-14-6-2-1-3-7-14;/h1-11H,12-13H2,(H2,23,24,25);1H
